US07915300B2
Ethyl 3-methyl-5-(4-Boc-morpholin-2-ylmethoxy)-benzofuran-2-carboxylate (1.05 mmol) was dissolved in 30 ml of a 4.0 M solution of hydrochloric acid in dioxan and stirred at room temperature for 1 hour. After removing the solvent under vacuo the resulting amine was dissolved in 20 ml of a mixture 2 to 1 of methanol and a buffered solution of acetic acid and sodium acetate at pH=5.3. A 37% solution of formaldehyde in water (1.16 mmol) was added and the mixture was stirred at room temperature for 1 hour. Then sodium cyanoborohydride (1.16 mmol) was added and the mixture was stirred over night at room temperature. The methanol was removed under vacuo and the water was eliminated by liophylisation. The solid obtained was purified by flash chromatography to yield ethyl 3-methyl-5-(4-methyl-morpholin-2-ylmethoxy)-benzofuran-2-carboxylate: m/z=334 in MS ES+, as a white solid.

reactant | Ethyl 3-methyl-5-(4-Boc-morpholin-2-ylmethoxy)-benzofuran-2-carboxylate | 1.05 mmol | CC1=C(OC2=C1C=C(C=C2)OCC2CN(CCO2)C(=O)OC(C)(C)C)C(=O)OCC | C22H29NO7
reactant | formaldehyde | C=O | CH2O
reactant | water | 1.16 mmol | O | H2O
reactant | sodium cyanoborohydride | 1.16 mmol | C(#N)[BH3-].[Na+]
solvent | hydrochloric acid | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | ethyl 3-methyl-5-(4-methyl-morpholin-2-ylmethoxy)-benzofuran-2-carboxylate | CC1=C(OC2=C1C=C(C=C2)OCC2CN(CCO2)C)C(=O)OCC | C18H23NO5
